US04207326
A mixture of 16. g (0.05 mol) of 1-hexadecyl-3,5-dimethylpyrazole and 50 ml of sulfolane is cooled down to -30° C. in a rotary autoclave and 9 g (0.18 mol) of liquid methyl-chloride cooled down to -40° C. are added. Upon sealing the autoclave, the reaction mixture is heated to 120° C. and kept at this temperature for 60 hrs. After cooling, the sulfolane is distilled off under high vacuum. 50 Ml of ether are added to the residue and the mixture shaken thoroughly. The crystalate is then filtered off and recrystallized first from 100 ml of acetone and then from 60 ml of acetone, filtered off, and vacuum dried at 40° C./12 Torr to yield about 10.1 g of 1-hexadecyl-2,3,5-trimethyl-pyrazolium chloride; m.p. 92°-94° C. The same compound is obtained by appropriate anion exchange of the product obtained in Example I.

reactant | 1-hexadecyl-3,5-dimethylpyrazole | 0.05 mol | C(CCCCCCCCCCCCCCC)N1N=C(C=C1C)C | C21H40N2
reactant | methyl-chloride | CCl | CH3Cl
solvent | sulfolane | 50 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 1-hexadecyl-2,3,5-trimethyl-pyrazolium chloride | about 10.1 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+]=1N(C(=CC1C)C)C | InChI=1S/C22H43N2.ClH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-24-22(3)20-21(2)23(24)4;/h20H,5-19H2,1-4H3;1H/q+1;/p-1
